US07728176B2
Tri-tert-butylphosphine is reacted with 1,1,1,3,3,3-hexafluoro-2-propanol and with sodium tetraphenylborate to produce tri-tert-butylphosphonium tetraphenylborate (77% yield). A similar process is described in which tricyclohexylphosphine is used as starting material to produce tricyclohexylphosphonium tetraphenylborate (77% yield) (see Nonpatent Document 7).

reactant | Tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 1,1,1,3,3,3-hexafluoro-2-propanol | FC(C(C(F)(F)F)O)(F)F | C3H2F6O
reactant | sodium tetraphenylborate | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
product | tri-tert-butylphosphonium tetraphenylborate | 77% yield | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C | InChI=1S/C24H20B.C12H27P/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-10(2,3)13(11(4,5)6)12(7,8)9/h1-20H;1-9H3/q-1;/p+1
